US04778817
2 g (7.16 mmol) of methyl 6-bromomethyl-2-naphthoate and 1.07 g (8.6 mmol) of 1-acetyl-4-methylimidazole are heated under reflux in absolute acetonitrile (8 hours). After the reaction solution has been evaporated, the residue is taken up in 2N HCl, and the solution is extracted with ethyl acetate. The ethyl acetate phases are discarded. After the aqueous phase has been neutralized with sodium carbonate, it is extracted with ethyl acetate, and the ethyl acetate phase is dried and evaporated in vacuo. 1.4 g (70%) of methyl 6-(5-methyl-1-imidazolylmethyl)-2-naphthoate are obtained by trituration of the residue with ether. Melting point 101°-102° C.

reactant | methyl 6-bromomethyl-2-naphthoate | 7.16 mmol, 2 g | BrCC=1C=C2C=CC(=CC2=CC1)C(=O)OC | C13H11BrO2
reactant | 1-acetyl-4-methylimidazole | 8.6 mmol, 1.07 g | C(C)(=O)N1C=NC(=C1)C | C6H8N2O
solvent | acetonitrile | C(C)#N | C2H3N
product | methyl 6-(5-methyl-1-imidazolylmethyl)-2-naphthoate | 1.4 g, 70% | CC1=CN=C(N1)CC=1C=C2C=CC(=CC2=CC1)C(=O)OC | C17H16N2O2
